US05614530
2-Nitro-4-methoxybenzoic acid (43.4 g, 0.22 mol) in DMF (250 ml) was hydrogenated at 55 psi in the presence of 10% palladium on carbon (5.8 g) for 2.5 hours. The reaction mixture was filtered through SUPERCELL®, the filter cake was rinsed with ethanol and then the filtrate was poured into ice/water (3.5 L). A precipitate formed which was collected by filtration, washed with water and dried in an oven at 60° C. to afford 30.7 g (84%) of 4-methoxyanthranilic acid, m.p. 176°-178° C. (dec.).

reactant | 2-Nitro-4-methoxybenzoic acid | 0.22 mol, 43.4 g | [N+](=O)([O-])C1=C(C(=O)O)C=CC(=C1)OC | C8H7NO5
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
catalyst | palladium on carbon | 5.8 g | [Pd] | Pd
product | 4-methoxyanthranilic acid | 30.7 g, 84% | COC=1C=C(C(C(=O)O)=CC1)N | C8H9NO3
